US08304557B2
N-[3-({2-[(methoxyacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-6-methylpyridine-2-carboxamide
To a solution of N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide (300 mg, 0.835 mmol) in N,N-dimethylacetamide (5 mL) was added methoxyacetyl chloride (92.0 μL, 1.01 mmol), and the mixture was stirred at room temperature for 15 hr. Methanol, tetrahydrofuran and aqueous sodium carbonate solution were added to the reaction mixture, and the mixture was stirred at 60° C. for 17 hr. The reaction mixture was concentrated under reduced pressure, diluted with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, 0%→85% ethyl acetate-hexane) to give the title compound (115 mg, 32%) as a white solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-6-methylpyridine-2-carboxamide | 0.835 mmol, 300 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC(=CC=C2)C)C1 | C20H17N5O2
reactant | methoxyacetyl chloride | 1.01 mmol, 92.0 μL | COCC(=O)Cl | C3H5ClO2
reactant | Methanol | CO | CH4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[3-({2-[(methoxyacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-6-methylpyridine-2-carboxamide | 115 mg, 32% | COCC(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=NC(=CC=C2)C)C1 | C23H21N5O4
